US08314088B2
8-benzyl-3-(2,5-dimethyl-1H-pyrrol-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine
A mixture of 8-benzyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine (100 mg), 2,5-hexanedione (50 μL), acetic acid (164 μL) and toluene (3 mL) was stirred at 80° C. for 24 hr. The mixture was diluted with ethyl acetate at room temperature, and the organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (solvent gradient: 10→100% ethyl acetate/hexane) to give the title compound (60 mg, 46%) as a pale-yellow oil.

reactant | 8-benzyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 100 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N | C14H16N4O
reactant | 2,5-hexanedione | 50 μL | CC(CCC(C)=O)=O | C6H10O2
reactant | acetic acid | 164 μL | C(C)(=O)O | C2H4O2
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-benzyl-3-(2,5-dimethyl-1H-pyrrol-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 60 mg, 46% | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N2C(=CC=C2C)C | C20H22N4O
